US08119666B2
Ethyl glyoxlate is added to a solution of 2-(4-amino-3-benzyloxybenzyl)-6-benzyloxybenzonitrile (0.281 g, 0.668 mmol), ACN (3 mL) and AcOH (1.5 mL) under N2. The mixture is stirred at ambient temperature for 2 h. The reaction is cooled in an ice bath and a slurry of sodium triacetoxyborohydride (0.284 g, 1.34 mmol) and ACN (1.5 mL) is added dropwise. Upon consumption of the starting material by LC/MS, the reaction is concentrated and the residue quenched with saturated NaHCO3 (2×10 mL). The mixture is extracted with DCM (40 mL) and the organics dried over Na2CO3. Evaporation affords [2-benzyloxy-4-(3-benzyloxy-2-cyanobenzyl)-phenylamino]-acetic acid ethyl ester as a green oil: MS (M+H)+=507.

reactant | 2-(4-amino-3-benzyloxybenzyl)-6-benzyloxybenzonitrile | 0.668 mmol, 0.281 g | NC1=C(C=C(CC2=C(C#N)C(=CC=C2)OCC2=CC=CC=C2)C=C1)OCC1=CC=CC=C1 | C28H24N2O2
reactant | AcOH | 1.5 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.34 mmol, 0.284 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ACN | 1.5 mL | C(C)#N | C2H3N
solvent | ACN | 3 mL | C(C)#N | C2H3N
product | [2-benzyloxy-4-(3-benzyloxy-2-cyanobenzyl)-phenylamino]-acetic acid ethyl ester | C(C)OC(CNC1=C(C=C(C=C1)CC1=C(C(=CC=C1)OCC1=CC=CC=C1)C#N)OCC1=CC=CC=C1)=O | C32H30N2O4
